datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC[Se](=O)[O:21][H:20].NC1=[NH+][C@H](C(=O)[O-:10])[C@@H]([C@H](O)C[NH3+])N1>>CC[Se](=O)[O-:21].NC1=[NH+][C@H](C(=O)[O:10][H:20])[C@@H]([C@H](O)C[NH3+])N1 10=20;20,21=21",
"O=C(Cc1ccccc1)C(C[N:10]1CCOCC1)c1ccccc1.OC(=C1c2ccccc2-c2ccccc21)[O:21][H:20]>>O=C(Cc1ccccc1)C(C[N+:10]1([H:20])CCOCC1)c1ccccc1.OC(=C1c2ccccc2-c2ccccc21)[O-:21] 10=20;20,21=21",
"OCc1[nH]c2cncnc2[n:10]1.c1ccc2[nH+]c(-c3ccc[n+:21]([H:20])c3)[nH]c2c1>>OCc1[nH]c2cncnc2[n+:10]1[H:20].c1ccc2[nH+]c(-c3ccc[n:21]c3)[nH]c2c1 10=20;20,21=21",
"C[NH+](C)CCC[N+:21](=C(c1ccccc1)c1ccccc1-c1ccccc1)[H:20].Oc1ccccc1CN1CCC[NH2+]CCC[NH:10]CCC1>>C[NH+](C)CCC[N:21]=C(c1ccccc1)c1ccccc1-c1ccccc1.Oc1ccccc1CN1CCC[NH2+]CCC[NH+:10]([H:20])CCC1 10=20;20,21=21",
"Cc1ccc([NH+:21](C)[H:20])cc1.O=C(c1ccccc1)c1ccc([O-:10])cc1>>Cc1ccc([NH:21]C)cc1.O=C(c1ccccc1)c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"CC1=C/C(=N\c2ccc([O-:10])cc2)C(C(C)C)=CC1=O.O=C(C(O)Cc1c[nH]c[nH+]1)[O:21][H:20]>>CC1=C/C(=N\c2ccc([O:10][H:20])cc2)C(C(C)C)=CC1=O.O=C(C(O)Cc1c[nH]c[nH+]1)[O-:21] 10=20;20,21=21",
"COc1cccc2ccc(C)[n+:21]([H:20])c12.Cc1ccc(C(C)C)c(OCC[N:10](C)C)c1>>COc1cccc2ccc(C)[n:21]c12.Cc1ccc(C(C)C)c(OCC[N+:10](C)(C)[H:20])c1 10=20;20,21=21",
"C[n+]1ccncc1[O:21][H:20].O=S(=O)(c1ccccc1)[N-:10]c1ccccc1>>C[n+]1ccncc1[O-:21].O=S(=O)(c1ccccc1)[N:10](c1ccccc1)[H:20] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1nc2nccnc2[n-:10]1.O=C[O:21][H:20]>>COc1cc(S(C)=O)ccc1-c1nc2nccnc2[n:10]1[H:20].O=C[O-:21] 10=20;20,21=21",
"CCC[NH:10]C1c2ccccc2C=Cc2ccccc21.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCC[NH+:10](C1c2ccccc2C=Cc2ccccc21)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCSc1nccc([O:21][H:20])[n+]1C.Cc1cc(-c2cccc[nH+]2)[n:10]n1C>>CCSc1nccc([O-:21])[n+]1C.Cc1cc(-c2cccc[nH+]2)[n+:10]([H:20])n1C 10=20;20,21=21",
"C[C@@H]1[NH2+][C@H](CCCCCCCC(=O)[O:21][H:20])CC[C@@H]1O.O=S(=O)(Cc1ccccc1)c1cnn[n-:10]1>>C[C@@H]1[NH2+][C@H](CCCCCCCC(=O)[O-:21])CC[C@@H]1O.O=S(=O)(Cc1ccccc1)c1cnn[n:10]1[H:20] 10=20;20,21=21",
"CCC(=O)c1cc(C(C)=O)n[n-:10]1.O=C(CC(O)c1ccccc1)[O:21][H:20]>>CCC(=O)c1cc(C(C)=O)n[n:10]1[H:20].O=C(CC(O)c1ccccc1)[O-:21] 10=20;20,21=21",
"CC(C)([OH2+])[O:21][H:20].[NH3+]CC[S-:10]>>CC(C)([OH2+])[O-:21].[NH3+]CC[S:10][H:20] 10=20;20,21=21",
"CNCC[NH:10]CCN.[NH3+]C(Cc1n[nH]c2ccccc12)C(=O)[O:21][H:20]>>CNCC[NH+:10](CCN)[H:20].[NH3+]C(Cc1n[nH]c2ccccc12)C(=O)[O-:21] 10=20;20,21=21",
"CN(C)c1cccc2c(S(=O)(=O)[NH-:10])cccc12.C[C@H]1O[C@H](O[C@H]2CC[C@H](N3C=CC(N)=NC3=O)O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[N+:21](C)(C)[H:20]>>CN(C)c1cccc2c(S(=O)(=O)[NH:10][H:20])cccc12.C[C@H]1O[C@H](O[C@H]2CC[C@H](N3C=CC(N)=NC3=O)O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[N:21](C)C 10=20;20,21=21",
"C=CC(C)(C)[NH+:21](c1ccccc1)[H:20].O=C(c1csc(Cl)c1)[O-:10]>>C=CC(C)(C)[NH:21]c1ccccc1.O=C(c1csc(Cl)c1)[O:10][H:20] 10=20;20,21=21",
"N[C@@H]1CCCC[C@@H]1[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>N[C@@H]1CCCC[C@@H]1[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(CC1CCCCC1)[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(CC1CCCCC1)[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(C)(C(=O)[O:21][H:20])C(C(N)=O)c1ccccc1.O=C([O-])/C(=N/[O-:10])c1ccccc1>>CC(C)(C(=O)[O-:21])C(C(N)=O)c1ccccc1.O=C([O-])/C(=N/[O:10][H:20])c1ccccc1 10=20;20,21=21",
"C[N+:21](C)(C)[H:20].Nc1ccc(S(=O)(=O)Nc2ccc(N)[n:10]c2)cc1>>C[N:21](C)C.Nc1ccc(S(=O)(=O)Nc2ccc(N)[n+:10]([H:20])c2)cc1 10=20;20,21=21",
"C#CC(C)(C)[NH:10]C(C)(C)C=C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C#CC(C)(C)[NH+:10](C(C)(C)C=C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCCC[NH2+]CC(=O)[O:21][H:20].C[N:10](C)c1ccc(/N=N/c2cccc[nH+]2)cc1>>CCCC[NH2+]CC(=O)[O-:21].C[N+:10](C)(c1ccc(/N=N/c2cccc[nH+]2)cc1)[H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])CC(C(=O)[O-])[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CC(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"Cc1cccc(C)c1[N:21](C(=S)c1ccccc1)[H:20].c1cncc([S-:10])c1>>Cc1cccc(C)c1[N-:21]C(=S)c1ccccc1.c1cncc([S:10][H:20])c1 10=20;20,21=21",
"CCCCCCCC[N+:21]1([H:20])CCCCC1.CCCCOC(=O)c1ccc([O-:10])cc1>>CCCCCCCC[N:21]1CCCCC1.CCCCOC(=O)c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"CC[C@H]1[C@H](CC2=[N+:21]([H:20])C(=Cc3[nH]c(C[C@@H]4NC(=O)[C@H](CC)[C@H]4C)c(C)c3CCC(=O)[O-])C(CCC(=O)[O-])=C2C)NC(=O)[C@@H]1C.Cc1ccc([N-:10]C(=S)c2cccc(Br)c2)cc1>>CC[C@H]1[C@H](CC2=[N:21]C(=Cc3[nH]c(C[C@@H]4NC(=O)[C@H](CC)[C@H]4C)c(C)c3CCC(=O)[O-])C(CCC(=O)[O-])=C2C)NC(=O)[C@@H]1C.Cc1ccc([N:10](C(=S)c2cccc(Br)c2)[H:20])cc1 10=20;20,21=21",
"CCCCCCCCC(=O)O[O:21][H:20].C[NH+](C)CCCNC(=O)/C=N/[O-:10]>>CCCCCCCCC(=O)O[O-:21].C[NH+](C)CCCNC(=O)/C=N/[O:10][H:20] 10=20;20,21=21",
"O=C([C@H]1C[C@@H]1c1ccc(Cl)cc1)[O:21][H:20].O=[N+]([O-])c1c([NH2:10])ccc2ccccc12>>O=C([C@H]1C[C@@H]1c1ccc(Cl)cc1)[O-:21].O=[N+]([O-])c1c([NH2+:10][H:20])ccc2ccccc12 10=20;20,21=21",
